US06903126B2
N-(3-Methoxypropyl)-6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanamide
100 mg of 6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was reacted with 3-methoxypropylamine according to general operating instructions 4. 38 mg was obtained.

reactant | 6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 100 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SCCC)C2=CC=C(C=C2)C)C1)=O | C24H30N2O3S
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
product | N-(3-Methoxypropyl)-6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanamide | COCCCNC(CCCCCOC=1C=CC2=C(N(C(=N2)SCCC)C2=CC=C(C=C2)C)C1)=O | C27H37N3O3S
